US08754089B2
To a stirred suspension of 3-bromo-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carbaldehyde (1.4162 g, 5.30 mmol) in THF (53.0 mL) was added methyl-magnesium bromide 3 M in Et2O (2.65 mL, 7.95 mmol) dropwise at 0° C. and the mixture was allowed to warm to 9° C. over 2 h. After 2 h, the reaction was quenched with satd aq NH4Cl (50 mL) and water (50 mL) and extracted with EtOAc (50 mL×2). The combined organic layers were washed with water (50 mL×1), brine (50 mL×1), dried over Na2SO4, filtered, and concd under reduced pressure to give an orange solid. The orange solid was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 25 min and 100% isocratic of EtOAc in hexane for 4 min as eluent to give 3-bromo-2-(1-hydroxyethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one as a bright yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.72 (1 H, dd, J=8.6, 7.0 Hz), 7.48 (1 H, d, J=9.4 Hz), 7.01 (1 H, d, J=7.0 Hz), 5.15 (1 H, d, J=6.7 Hz), 4.99 (1 H, qd, J=6.5, 6.3 Hz), 2.94 (3 H, s), 1.35 (3 H, d, J=6.7 Hz); Mass Spectrum (ESI) m/e=283.0 [M+1 (79Br)] and 285.0 [M+1 (81Br)].

reactant | 3-bromo-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carbaldehyde | 5.30 mmol, 1.4162 g | BrC1=C(N=C2N(C1=O)C(=CC=C2)C)C=O | C10H7BrN2O2
reactant | methyl-magnesium bromide | 3 M | C[Mg]Br
reactant | Et2O | 7.95 mmol, 2.65 mL | CCOCC | C4H10O
solvent | THF | 53.0 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-(1-hydroxyethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C(=CC=C2)C)C(C)O | C11H11BrN2O2
